US07863289B2
Synthesis of 3-{3-[2,6-difluoro-3-(4-trifluoromethyl-benzenesulfonylamino)-benzoyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-N-ethyl-propionamide P-0035
To 3-{3-[2,6-difluoro-3-(4-trifluoromethyl-benzenesulfonylamino)-benzoyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-propionic acid (P-0034, 42 mg, 0.076 mmol) dissolved in tetrahydrofuran (3 mL) was added a 2.0 M solution of ethylamine in tetrahydrofuran (110 μL, 0.23 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (29 mg, 0.15 mmol). The reaction mixture was stirred at room temperature for 16 hrs, then extracted with ethyl acetate and water. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The desired compound was isolated by silica gel column chromatography (methanol/dichloromethane), with the eluting solvents removed via lyophilizing to provide a white fluffy solid (P-0035, 13 mg, 30%). MS(ESI) [M+H+]+=581.0.

reactant | 3-{3-[2,6-difluoro-3-(4-trifluoromethyl-benzenesulfonylamino)-benzoyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-propionic acid | 0.076 mmol, 42 mg | FC1=C(C(=O)C2=CNC3=NC=C(C=C32)CCC(=O)O)C(=CC=C1NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)F | C24H16F5N3O5S
reactant | ethylamine | C(C)N | C2H7N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.15 mmol, 29 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.23 mmol, 110 μL | O1CCCC1 | C4H8O
product | 3-{3-[2,6-difluoro-3-(4-trifluoromethyl-benzenesulfonylamino)-benzoyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-N-ethyl-propionamide | FC1=C(C(=O)C2=CNC3=NC=C(C=C32)CCC(=O)NCC)C(=CC=C1NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)F | C26H21F5N4O4S
